US08536175B2
Step 1.8: 3,5-dimethoxyphenylboronic acid
t-BuLi (1.7 M in pentatne, 63 mL, 106 mmol, 2.1 equiv) was added dropwise to a cold (−78° C.) solution of 3,5-dimethoxy-bromobenzene (11 g, 50.7 mmol) in THF (400 mL), under an argon atmosphere. The yellow mixture si stirred for 45 min at −78° C. Trimethyl borate (20 mL, 179 mmol, 3.5 equiv) was then added. The colorless reaction mixture was allowed to warm to 0° C., quenched by addition of a saturated solution of NH4Cl (5 mL), and concentrated. The residue was diluted with EtOAc/NH4Cl (saturated aqueous solution), and extracted with EtOAc. The organic phase was dried (Na2SO4), filtered and concentrated. The residue was triturated in Et2O to provide 6.8 g of the title compound as a white solid: ESI-MS: 183.1 [M+H]+; tR=2.70 min (System 1).

reactant | t-BuLi | 106 mmol, 1.7 M, 63 mL, 2.1 equiv | [Li]C(C)(C)C
reactant | 3,5-dimethoxy-bromobenzene | 50.7 mmol, 11 g | COC=1C=C(C=C(C1)OC)Br | C8H9BrO2
reactant | Trimethyl borate | 179 mmol, 20 mL, 3.5 equiv | B(OC)(OC)OC | C3H9BO3
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3,5-dimethoxyphenylboronic acid | 6.8 g | COC=1C=C(C=C(C1)OC)B(O)O | C8H11BO4
